US08703941B2
Note: For the preparation of the starting material compound 1, see Example 147. To a solution of 1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]cyclohexane-1,4-diamine (90 mg, 0.30 mmol, 1.00 equiv) in DMF (10 mL) was added 2-chloro-1-(morpholin-4-yl)ethan-1-one (73.35 mg, 0.45 mmol, 1.50 equiv) and potassium carbonate (83 mg, 0.60 mmol, 2.00 equiv) at room temperature under nitrogen. The resulting solution was stirred overnight at ambient temperature. After completion of the reaction, the solids were removed by filtration and the filtrate was concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (SHIMADZU): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% NH4HCO3 and CH3CN (6.0% CH3CN up to 50.0% in 19 min); Flow rate, 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired 2-[methyl[4-([7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino)cyclohexyl]amino]-1-(morpholin-4-yl)ethan-1-one (30.8 mg) as a white solid. MS (ES, m/z): 430 (M+H+). NMR (400 MHz, CD3OD-do): δ 8.23 (s, 1H), 4.05-4.08 (m, 1H), 3.67-3.68 (m, 6H), 3.59-3.60 (m, 2H), 3.40 (s, 2H), 3.08 (t, 2H), 3.01 (t, 2H), 2.52-2.59 (m, 3H), 2.34 (s, 3H), 2.16-2.19 (m, 2H), 1.93-1.96 (m, 2H), 1.45-1.57 (m, 4H).

reactant | 1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]cyclohexane-1,4-diamine | 0.30 mmol, 90 mg, 1.00 equiv | CNC1CCC(CC1)NC=1N=CN=C2SC=3CCCC3C12 | C16H22N4S
reactant | 2-chloro-1-(morpholin-4-yl)ethan-1-one | 0.45 mmol, 73.35 mg, 1.50 equiv | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | potassium carbonate | 0.60 mmol, 83 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[methyl[4-([7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino)cyclohexyl]amino]-1-(morpholin-4-yl)ethan-1-one | 30.8 mg | CN(CC(=O)N1CCOCC1)C1CCC(CC1)NC=1N=CN=C2SC=3CCCC3C12 | C22H31N5O2S
